US08138197B2
Production of 1′-{[2,6-Bis(4-fluorophenyl)pyridin-4-yl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
Triethylamine (71.0 μl, 0.51 mol), 1-hydroxybenzotriazole hydrate (35 mg, 0.26 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (49.0 mg, 0.26 mol) were added to an N,N-dimethylformamide solution (0.5 mL) of 2,6-bis(4-fluorophenyl)pyridine-4-carboxylic acid (53.0 mg, 0.17 mmol) and 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (82.0 mg, 0.26 mol), and stirred at 60° C. for 3 hours. The reaction liquid was concentrated under reduced pressure, and the resulting residue was purified through high-performance preparative liquid chromatography (0.1% TFA, water/acetonitrile) to obtain the title compound as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.42 (1H, d, J=2.0 Hz), 8.31 (4H, dd, J=8.7, 5.7 Hz), 8.25 (1H, dd, J=8.7, 2.3 Hz), 7.94 (2H, s), 7.39-7.33 (5H, m), 4.35-4.32 (1H, m), 3.46-3.32 (3H, m), 2.99 (2H, s), 2.13-2.10 (1H, m), 1.91-1.87 (3H, m). MS [M+H]+=579.

reactant | Triethylamine | 0.51 mol, 71.0 μl | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 0.26 mmol, 35 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.26 mol, 49.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2,6-bis(4-fluorophenyl)pyridine-4-carboxylic acid | 0.17 mmol, 53.0 mg | FC1=CC=C(C=C1)C1=NC(=CC(=C1)C(=O)O)C1=CC=C(C=C1)F | C18H11F2NO2
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 0.26 mol, 82.0 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 1′-{[2,6-Bis(4-fluorophenyl)pyridin-4-yl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | FC1=CC=C(C=C1)C1=NC(=CC(=C1)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C2=NN=NN2)C2=CC=C(C=C2)F | C32H24F2N6O3
